US08563766B2
2-acetyl-2-(tert-butoxycarbonyl)-5-fluoro-indane
To 10 g of 1,2-bis-(bromomethyl)-4-fluoro-benzene in 200 ml of methylethylketone were added 29.4 g of potassium carbonate followed by 6.7 g of tert-butyl acetoacetate. The mixture was stirred for 16 h at ambient temperature. 200 ml of water were added. The phases were separated and the aqueous phase was extracted once with 100 ml of methylethylketone. The combined organic phases were washed once with 100 ml of water. The solvent was evaporated and to the resulting oil were added 20 ml of methanol. After 1 h stirring at ambient temperature the product was filtered off, washed with 2×5 ml of methanol and dried. Yield: 6.2 g. Melt.p. 73° C. 1HNMR: δ=1.48 ppm (s, 9H); 2.25 ppm (s, 3H); 3.44 ppm (AB, 2H); 3.47 (AB, 2H); 6.87 ppm (m, 2H); 7.12 ppm (dd, 1H)

reactant | 1,2-bis-(bromomethyl)-4-fluoro-benzene | 10 g | BrCC1=C(C=C(C=C1)F)CBr | C8H7Br2F
reactant | potassium carbonate | 29.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl acetoacetate | 6.7 g | C(CC(=O)C)(=O)OC(C)(C)C | C8H14O3
reactant | water | 200 ml | O | H2O
solvent | methylethylketone | 200 ml | CC(=O)CC | C4H8O
product | 2-acetyl-2-(tert-butoxycarbonyl)-5-fluoro-indane | C(C)(=O)C1(CC2=CC=C(C=C2C1)F)C(=O)OC(C)(C)C | C16H19FO3
